US08283475B2
N-[2-(5-Chloro-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide (compound No 1.001)
4-trifluoromethoxybenzoyl chloride (0.34 g) was added to a solution of 2-amino-3-(5-chloro-2H-benzotriazol-2-yl)-2-methylpropionitrile (0.3 g) in dry DCM mixed with TEA (0.27 mL). The reaction mixture was stirred 48 hours at room temperature. Silica gel was added to the reaction mixture and solvent evaporated under reduced pressure. The resulting crude product loaded on silica gel was purified by chromatography (SiO2, heptane/EA) to afford the title compound as a white solid (0.3 g, 54%). Rf=0.7 (1:1 EA/heptane). MS (ES): M/Z [M+H]=424. 1H NMR: (400 MHz, DMSO-d6): 1.74 (s, 3H), 5.39-5.49 (m, 2H), 7.48 (dd, J=9.1, 1.9 Hz, 1H), 7.51 (br d, J=8.0 Hz, 2H), 7.93 (m, 2H), 8.01 (dd, J=9.1, 0.6 Hz, 1H), 8.13 (dd, J=1.9, 0.6 Hz, 1H) and 8.92 (s, 1H). 19F NMR (376 MHz, DMSO-d6): −57.09 (s, 3F).

reactant | 4-trifluoromethoxybenzoyl chloride | 0.34 g | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | 2-amino-3-(5-chloro-2H-benzotriazol-2-yl)-2-methylpropionitrile | 0.3 g | NC(C#N)(CN1N=C2C(=N1)C=CC(=C2)Cl)C | C10H10ClN5
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[2-(5-Chloro-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide | 0.3 g, 54% | ClC1=CC=2C(=NN(N2)CC(C)(C#N)NC(C2=CC=C(C=C2)OC(F)(F)F)=O)C=C1 | C18H13ClF3N5O2
